US07112610B2
2,2,6-Trimethyl-heptanoic acid methyl ester (1.97 g, 10.6 mmol) was taken up in toluene (65 mL) and cooled to −78° C. DiBALH (12.7 mL of a 1 N solution in toluene) was added dropwise. After 45 min, 1.5 mL DiBALH was added. After 2 h, the reaction was quenched by the addition of 15 mL MeOH at −78° C. The mixture was warmed to ambient temperature, and then cooled again to −78° C. for the addition of 10 mL 1 N HCl. The mixture was extracted with EtOAc (3×15 mL). The combined organics were washed with brine, dried (MgSO4), filtered and concentrated. The residual oil was purified via silica gel chromatography (95/5 Hexane/EtOAc) to give 2,2,6-Trimethyl-heptan-1-ol (0.88 g). m/z 159 (M+).

reactant | 2,2,6-Trimethyl-heptanoic acid methyl ester | 10.6 mmol, 1.97 g | COC(C(CCCC(C)C)(C)C)=O | C11H22O2
reactant | DiBALH | CC(C)C[AlH]CC(C)C
reactant | DiBALH | 1.5 mL | CC(C)C[AlH]CC(C)C
solvent | toluene | 65 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2,6-Trimethyl-heptan-1-ol | 0.88 g | CC(CO)(CCCC(C)C)C | C10H22O
